US05736534
4-(6-Bromo-7-methyl-2,3-dihydro-indol-1-yl)-7-methoxy-quinazoline hydrochloride salt
Utilizing a procedure analogous to that described in Example 1 (with conversion to the HCl salt as outlined for Example 2), this product was prepared in 49% yield from 6-bromo-7-methyl-indoline (1.1 eq.), and 4-chloro-7-methoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 200°-205° C. (dec); LC-MS: 370, 372 (MH+); anal. RP18-HPLC RT: 5.76 min.).

reactant | HCl | Cl | ClH
reactant | 6-bromo-7-methyl-indoline | 1.1 eq. | BrC1=CC=C2CCNC2=C1C | C9H10BrN
reactant | 4-chloro-7-methoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=CC=C12)OC | C9H7ClN2O
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(6-Bromo-7-methyl-2,3-dihydro-indol-1-yl)-7-methoxy-quinazoline hydrochloride salt | 49% yield | Cl.BrC1=CC=C2CCN(C2=C1C)C1=NC=NC2=CC(=CC=C12)OC | InChI=1S/C18H16BrN3O.ClH/c1-11-15(19)6-3-12-7-8-22(17(11)12)18-14-5-4-13(23-2)9-16(14)20-10-21-18;/h3-6,9-10H,7-8H2,1-2H3;1H
